US07053212B2
Step A: 3-Phenyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-propionamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.125 g, 0.34 mmol) and triethylamine (0.18 mL, 1.36 mmol) in 2 mL methylene chloride was added hydrocinnamoyl chloride (0.152 mL, 1.02 mmol), dropwise. The reaction mixture was stirred for 1 hr. at room temperature. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was washed with an additional 2 mL of methylene chloride. The combined organic layers were concentrated to give the title compound of Step A. MS 529.2 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.34 mmol, 0.125 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 1.36 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | hydrocinnamoyl chloride | 1.02 mmol, 0.152 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-propionamide | C1(=CC=CC=C1)CCC(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C33H40N2O4
